US03947408
A solution of 3,9 g. of sodium nitrite in 30 ml. of water is added over 10 minutes with stirring to a cooled (-10°to 0°C.) mixture of 11.5 g. of 7-amino-1,2,3,5,10,11a- hexahydro-10-methyl-11H-pyrrolo[2,1-c] [1,4]benzodiazepin-11- one, 13 g. of CuSO4. 5H2O, 60 ml. of concentrated hydrochloric acid and 40 ml. of water. The mixture is stirred for one hour without cooling, poured into 80 ml. of concentrated ammonium hydroxide and extracted with benzene. The benzene layer is washed with water and concentrated to remove the solvent. The residue is purified by partition chromatography in order to obtain the pure 7-chloro-1,2,3,5,10,11a-hexahydro- 10-methyl-11H-pyrrolo[2,1-c] [1,4]benzodiazepin-11-one, which melts at 97°-99°C. The hydrochloride salt melts at 244°-246°C.

reactant | sodium nitrite | N(=O)[O-].[Na+]
reactant | 7-amino-1,2,3,5,10,11a- hexahydro-10-methyl-11H-pyrrolo[2,1-c] [1,4]benzodiazepin-11- one | NC=1C=CC2=C(CN3C(C(N2C)=O)CCC3)C1 | C13H17N3O
reactant | hydrochloric acid | Cl | ClH
catalyst | CuSO4 | [O-]S(=O)(=O)[O-].[Cu+2]
solvent | water | O | H2O
product | 7-chloro-1,2,3,5,10,11a-hexahydro- 10-methyl-11H-pyrrolo[2,1-c] [1,4]benzodiazepin-11-one | ClC=1C=CC2=C(CN3C(C(N2C)=O)CCC3)C1 | C13H15ClN2O
